.circuit
R1 6 5 50
R2 1 2 20
R3 GND 3 30
R4 5 7 40
R5 3 4 50
V1 1 GND dc 4
V3 6 1 dc 5
V2 2 GND dc 6
V4 5 4 dc 10
I1 2 5 dc 5
I2 4 7 dc 15
I3 4 3 dc 10
.end

